US08580762B2
Step 4: 9-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH -cyclopenta[d][1,3]dioxol-4-yl)-6-chloro-9H-purine
A mixture of ((3aR,4R,6R,6aS)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH -cyclopenta[d][1,3]dioxol-4-yl)methanol (7.9 g, 24 mmol) and polymer-supported triphenylphosphine (3 mmol/g loading; 11 g, 34 mmol) in THF (100 mL) was cooled to 0° C. (ice/brine bath) and treated dropwise with diisopropyl azodicarboxylate (6.7 mL, 34 mmol). The tan slurry was stirred for 15 min, and treated dropwise with a solution of diphenylphosphonic azide (7.3 mL, 34 mmol) in THF (24 mL). The brown reaction mixture was stirred for 18.5 h as the ice bath expired; HPLC indicated conversion to the desired product. At 21.5 h the reaction mixture was filtered, the solids were washed with CH2Cl2, and the filtrate was concentrated in vacuo. The red-brown residue was taken up in CH2Cl2 (300 mL) and washed with saturated aqueous NaHCO3 (1×100 mL), water (1×100 mL), and brine (1×150 mL). The separated organic layer was dried (Na2SO4) and concentrated in vacuo to afford a red-orange oil. Purification by column chromatography (7×16 cm silica; 0-10% acetone/CH2Cl2) afforded the title compound (4.82 g, 57%) as a yellow oil/foam: MS (ESI+) for C14H16ClN7O2 m/z 350.1 (M+H)+; MS (ESI−) for C14H16ClN7O2 m/z 394.1 (M−HCO2)−; HPLC purity >95 area %.

reactant | ((3aR,4R,6R,6aS)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydro-3aH -cyclopenta[d][1,3]dioxol-4-yl)methanol | 24 mmol, 7.9 g | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C14H17ClN4O3
reactant | triphenylphosphine | 34 mmol, 11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 34 mmol, 6.7 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | diphenylphosphonic azide | 34 mmol, 7.3 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 9-((3aS,4R,6R,6aR)-6-(azidomethyl)-2,2-dimethyltetrahydro-3aH -cyclopenta[d][1,3]dioxol-4-yl)-6-chloro-9H-purine | N(=[N+]=[N-])C[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C14H16ClN7O2
